US06514887B1
Synthesis of 2-chloro-4,6-bis(N-Ethylperfluorooctylsulphonamido)-1,3,5-triazine
Metallic sodium (4.08 g, 177 mmols) was reacted with methanol (150 mls). N-Ethyl perfluorooctyl sulphonamide (93.28 g, 177 mmols) was added, and the resulting solution was stirred for 30 minutes. The methanol was removed at the pump (a vacuum pump was required to remove the final traces of solvent). The resulting sticky solid was dissolved in acetone (300 mls) and cooled to −65° C. under argon. Recrystalised cyanuric chloride (16.33 g, 88.5 mmols) dissolved in acetone (100 mls) was added to the reaction mixture dropwise such that the temperature did not rise above −50° C. (˜1 hour). After the addition, the reaction mixture was allowed to slowly warm to room temperature (1 hour) and then stirred for a further 3 hours. The precipated solid was removed by filtration and dried under vacuum. Purification by soxhlet extraction with acetone afforded 61 g (56.9%) of a fine white powder.

reactant | sodium | 177 mmols, 4.08 g | [Na] | Na
reactant | methanol | 150 mls | CO | CH4O
reactant | N-Ethyl perfluorooctyl sulphonamide | 177 mmols, 93.28 g | C(C)NS(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C10H6F17NO2S
reactant | cyanuric chloride | 88.5 mmols, 16.33 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | acetone | 100 mls | CC(=O)C | C3H6O
product | 2-chloro-4,6-bis(N-Ethylperfluorooctylsulphonamido)-1,3,5-triazine | 61 g, 56.9% | ClC1=NC(=NC(=N1)N(S(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)CC)N(S(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)CC | C23H10ClF34N5O4S2
